US05789409
4-[[4-(2-Tolyl)-1-piperazinyl]methyl]phenylacetic acid hydrochloride
Using 2.2 g of methyl 4-bromomethylphenylacetate, 1.9 g of 1-(2-tolyl)piperazine hydrochloride, 2.5 ml of triethylamine, and 80 ml of dioxane, the reaction procedure of Example 2 was otherwise repeated and the reaction product was converted to the hydrochloride using 2N-hydrochloric acid and recrystallized from ethanol-ether to provide 1.7 g of the title compound melting at 249° C.-252° C.

reactant | methyl 4-bromomethylphenylacetate | 2.2 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | 1-(2-tolyl)piperazine hydrochloride | 1.9 g | Cl.C1(=C(C=CC=C1)N1CCNCC1)C
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | 2N | Cl | ClH
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 4-[[4-(2-Tolyl)-1-piperazinyl]methyl]phenylacetic acid hydrochloride | 1.7 g | Cl.C1(=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CC(=O)O)C | InChI=1S/C20H24N2O2.ClH/c1-16-4-2-3-5-19(16)22-12-10-21(11-13-22)15-18-8-6-17(7-9-18)14-20(23)24;/h2-9H,10-15H2,1H3,(H,23,24);1H
